US05300499
14 mg (41.3 mmol) of 5-(4-acetoxymethylbenzoyl)-3-thiophene sulfonamide and 9 mg (61.8 mmol) of K2CO3 were added to 3 mL of methanol. After stirring at rt for 11 h the solution was diluted with ethyl acetate and washed with 1N HCl followed with water (2×) and brine. The solvent was removed under vacuum to afford 12.5 mg of 5-(4-hydroxymethylbenzoyl)-3-thiophene sulfonamide as a white solid.

reactant | 5-(4-acetoxymethylbenzoyl)-3-thiophene sulfonamide | 41.3 mmol, 14 mg | C(C)(=O)OCC1=CC=C(C(=O)C2=CC(=CS2)S(=O)(=O)N)C=C1 | C14H13NO5S2
reactant | K2CO3 | 61.8 mmol, 9 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | methanol | 3 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(4-hydroxymethylbenzoyl)-3-thiophene sulfonamide | 12.5 mg | OCC1=CC=C(C(=O)C2=CC(=CS2)S(=O)(=O)N)C=C1 | C12H11NO4S2
